US05451347
4-(Bromomethyl)benzyltri-n-butylammonium bromide (17).
To a mixture of α,α'-dibromo-p-xylene (7.0 g, 26.5 mmol) in toluene (200 mL) was added tri-n-butylamine (3.43 g, 18.6 mmol) under argon gas. The reaction mixture was stirred for several days at room temperature under argon at which time the tri-n-butylammonium salt had crystallized out of solution. The crystals were filtered and washed with toluene (3×50 mL) and hexanes (3×50 mL) and dried: 1H NMR (CDCl3) δ 0.97 (t, 9H), 1.39 (m, 6H), 1.76 (m, 6H), 3.32 (m, 6H), 4.47 (s, 2H), 4.96 (s, 2H), 7.42-7.59 (dd, 4H).

reactant | α,α'-dibromo-p-xylene | 26.5 mmol, 7.0 g | BrCC1=CC=C(C=C1)CBr | C8H8Br2
reactant | tri-n-butylamine | 18.6 mmol, 3.43 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | tri-n-butylammonium | C(CCC)[NH+](CCCC)CCCC
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(Bromomethyl)benzyltri-n-butylammonium bromide | [Br-].BrCC1=CC=C(C[N+](CCCC)(CCCC)CCCC)C=C1 | InChI=1S/C20H35BrN.BrH/c1-4-7-14-22(15-8-5-2,16-9-6-3)18-20-12-10-19(17-21)11-13-20;/h10-13H,4-9,14-18H2,1-3H3;1H/q+1;/p-1
